US08193239B2
(i) 6-Bromo-4-methyl-2H-benzo[b][1,4]oxazin-3(4H)-one
To sodium hydride (63 mg) in DMF (3 mL) under an atmosphere of nitrogen was added 6-bromo-2H-benzo[b][1,4]oxazin-3(4H)-one (0.3 g) and the mixture was stirred at room temperature for 1 h. Methyl iodide (0.123 mL) was added and the mixture was stirred overnight at room temperature. The mixture was poured onto ice/water and extracted into ethyl acetate (×2). The ethyl acetate was washed with water (×3), dried and the solvent was evaporated. The resulting material was purified by chromatography on silica eluting with 10% ethyl acetate/isohexane to afford the sub-titled compound (299 mg).

reactant | sodium hydride | 63 mg | [H-].[Na+]
reactant | 6-bromo-2H-benzo[b][1,4]oxazin-3(4H)-one | 0.3 g | BrC1=CC2=C(OCC(N2)=O)C=C1 | C8H6BrNO2
reactant | Methyl iodide | 0.123 mL | CI | CH3I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-4-methyl-2H-benzo[b][1,4]oxazin-3(4H)-one | 299 mg | BrC1=CC2=C(OCC(N2C)=O)C=C1 | C9H8BrNO2
